US04143073
N-Allyl-2,6-dinitro-4-ethyl-N-methoxyaniline
To 0.017 mole of sodium hydride, obtained from 0.82 g. of a 50% dispersion of sodium hydride in mineral oil (by the process described in Example 6, supra), was added 50 ml. of dimethylformamide. To the suspension was added 3.0 g. (0.012 mole) of 2,6-dinitro-4-ethyl-N-methoxyaniline (Preparation 2), and the mixture stirred for about 5-10 minutes. Allyl bromide, 2.9 g. (0.024 mole), was added and the reaction mixture stirred at room temperature for about 30 minutes. A sample of the reaction mixture checked by NMR showed the presence of about 70-80 percent of the desired product, together with about 20-30 percent of starting material. The reaction mixture was then heated at about 90° C., with stirring, for about an hour. A check by NMR indicated the reaction had gone to completion. The reaction product mixture was worked up by adding dilute aqueous hydrochloric acid and toluene. The organic layer was separated and dried over anhydrous magnesium sulfate. The drying agent was filtered off and the filtrate was chromatographed on a Florisil column. The fractions were examined by NMR spectrum, combined, and concentrated in vacuo to dryness. The residue was recrystallized from petroleum ether (b.p. 60°-71° C.) to give 1.7 g. of product having a melting point of about 83°-85° C. The product was identified by NMR spectrum and elemental analyses as N-allyl-2,6-dinitro-4-ethyl-N-methoxyaniline.

reactant | sodium hydride | [H-].[Na+]
reactant | 2,6-dinitro-4-ethyl-N-methoxyaniline | 0.012 mole | [N+](=O)([O-])C1=C(NOC)C(=CC(=C1)CC)[N+](=O)[O-] | C9H11N3O5
reactant | Allyl bromide | C(C=C)Br | C3H5Br
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Allyl-2,6-dinitro-4-ethyl-N-methoxyaniline | about 70-80 percent | C(C=C)N(C1=C(C=C(C=C1[N+](=O)[O-])CC)[N+](=O)[O-])OC | C12H15N3O5
